US08202876B2
A Smith vial (10-20 mL) is charged with cyano-(6-methylsulfanyl-pyrimidin-4-yl)-acetic acid methyl ester (0.83 g, 3.72 mmol), NaCl (1.0 g), water (1 mL) and DMSO. The vial is sealed and irradiated at 160° C. for 50 minutes in Smith Synthesizer. The reaction mixture is partitioned between ethyl acetate and brine, and then filtered through a pad of celite and washed with ethyl acetate. The organic layer is separated and washed with brine, dried over Na2SO4, filtered and concentrated. The crude product is purified by silica gel flash chromatography eluting with ethyl acetate in hexanes from 10% to 100% to afford (6-methylsulfanyl-pyrimidin-4-yl)-acetonitrile: 1H NMR 400 MHz (CDCl3) δ 8.93 (s, 1H), 7.47 (s, 1H), 4.20 (s, 2H), 2.56 (s, 3H); MS m/z 166.00 (M+1).

reactant | cyano-(6-methylsulfanyl-pyrimidin-4-yl)-acetic acid methyl ester | 3.72 mmol, 0.83 g | COC(C(C1=NC=NC(=C1)SC)C#N)=O | C9H9N3O2S
reactant | NaCl | 1.0 g | [Na+].[Cl-]
reactant | water | 1 mL | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | (6-methylsulfanyl-pyrimidin-4-yl)-acetonitrile | CSC1=CC(=NC=N1)CC#N | C7H7N3S
